US04661607
To a mixture of 2-allyl-3-hydroxy-4-methyl-9-oxo-9H-xanthene (11 g) and chloroform (800 ml), 9.5 g of m-chloroperbenzoic acid was added and the resulting mixture was stirred at room temperature for 5 hours, followed by standing overnight. To the mixture, potassium carbonate (20 g) and water (500 ml) were added and the resulting mixture was subjected to extraction with chloroform. The chloroform layer was dried and the solvent was distilled off. The residue was recrystallized from ethanol to obtain 10 g of 2,3-dihydro-2-hydroxymethyl-11-methyl-5-oxo-5H-furo[3,2-b]xanthene. m.p. 242°-243° C. This compound gave a mass spectrum having a molecular ion peak at m/e 282.

reactant | 2-allyl-3-hydroxy-4-methyl-9-oxo-9H-xanthene | 11 g | C(C=C)C1=CC=2C(C3=CC=CC=C3OC2C(=C1O)C)=O | C17H14O3
reactant | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
reactant | m-chloroperbenzoic acid | 9.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 500 ml | O | H2O
product | 2,3-dihydro-2-hydroxymethyl-11-methyl-5-oxo-5H-furo[3,2-b]xanthene | 10 g | OCC1CC2=CC=3C(C=4C=CC=CC4OC3C(=C2O1)C)=O | C17H14O4
